US04724137
82.6 g of ethyl p-aminobenzoate and 30.75 g of cyanuric chloride in 1,500 ml of xylene were refluxed for 8 hours, hydrogen chloride escaping during this procedure. Thereafter, 1 liter of xylene was added, and the suspension, at 80°-90° C., was washed neutral with saturated sodium bicarbonate solution and then cooled to room temperature, and the product was filtered off over a glass suction filter. The white crystals obtained were washed with ethanol and dried. Mp: 218°-223° C.; yield: 97% of 1,3,5-tris-(p-ethoxycarbonylanilino)-s-triazine; ultraviolet (in ethanol): E1 cm1% =2,080 at 313 nm, E1 cm1% =699 at 218 nm.

reactant | ethyl p-aminobenzoate | 82.6 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | cyanuric chloride | 30.75 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | hydrogen chloride | Cl | ClH
solvent | xylene | 1,500 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 1 liter | C=1(C(=CC=CC1)C)C | C8H10
product | 1,3,5-tris-(p-ethoxycarbonylanilino)-s-triazine | yield: 97% | C(C)OC(=O)C1=CC=C(NN2CN(CN(C2)NC2=CC=C(C=C2)C(=O)OCC)NC2=CC=C(C=C2)C(=O)OCC)C=C1 | C30H36N6O6
